US08293752B2
To a cooled (−78° C.) solution of oxalyl chloride (90 mL, 1.03 mol) in CH2Cl2 was added dropwise a solution of DMSO (100 mL, 1.41 mol) in CH2Cl2. The mixture was stirred at −78° C. for 1 hr, and a solution of (R)-tert-butyl 1-hydroxypropan-2-ylcarbamate (90 g, 0.51 mol) in CH2Cl2 was added. After stirring for 3 hr, 500 mL of triethylamine was added and the reaction mixture was stirred for another 3 h at −78° C. The reaction was quenched with 1% HCl and the reaction mixture was warmed to RT. The organic layer was separated and the aqueous layer was extracted with CH2Cl2. The organic layer was washed with water, dried over MgSO4, and evaporated to provide crude N.1, (R)-tert-butyl 1-oxopropan-2-ylcarbamate (76.0 g, 85.4%). 1H NMR (CDCl3) δ 9.56 (s, 1H), 4.23 (br s, 1H), 1.45 (s, 9H), 1.32 (s, 3H).

reactant | oxalyl chloride | 1.03 mol, 90 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 1.41 mol, 100 mL | CS(=O)C | C2H6OS
reactant | (R)-tert-butyl 1-hydroxypropan-2-ylcarbamate | 0.51 mol, 90 g | OC[C@@H](C)NC(OC(C)(C)C)=O | C8H17NO3
reactant | triethylamine | 500 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (R)-tert-butyl 1-oxopropan-2-ylcarbamate | 76.0 g, 85.4% | O=C[C@@H](C)NC(OC(C)(C)C)=O | C8H15NO3
